US07091353B2
4-(3-Chloro-benzylamino)-2-(3-methyl-2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione I-132
To a stirred solution of 3-(3-Chloro-benzylamino)-phthalic acid (4 mmol) in pyridine (50 ml) was added 3-amino-3-methyl-piperidine-2,6-dione hydrochloride (0.71 g, 4 mmol). The reaction mixture was heated to reflux for 18 h. The solvent was evaporated in vacuo and the residue dissolved in methylene chloride (150 ml). The methylene chloride mixture was washed with water (2×100 ml), 0.1N HCl (2×100 ml), brine (1×100 ml), dried (magnesium sulfate), and filtered. The solvent was evaporated in vacuo to give a yellow semi-solid. The residue was purified by preparative HPLC (Symmetry C18, isocratic, 50% acetonitrile/water) to give 0.67 g (41%) of product as a yellow solid: mp 199–201° C.; 1H NMR (DMSO-d6) δ δ 10.99 (s, 1H), 7.52–7.28 (m, 6H), 6.97–6.89 (m, 2H), 4.54 (d, J=6.1 Hz, 1H), 2.78–2.50 (m, 3H), 2.08–1.98 (m, 1H), 1.89 (s, 3H); 13C NMR (DMSO-d6) δ 172.42, 172.19, 169.62, 167.92, 145.59, 141.82, 136.02, 133.14, 132.06, 130.35, 126.91, 126.78, 125.60, 117.23, 110.42, 109.49, 58.37, 44.74, 29.27, 28.62, 21.02; Anal. Calcd. For C21H18ClN3O4: C, 61.24; H, 4.41; N, 10.20. Found: C, 61.30; H, 4.28; N, 9.97.

reactant | 3-(3-Chloro-benzylamino)-phthalic acid | 4 mmol | ClC=1C=C(CNC2=C(C(C(=O)O)=CC=C2)C(=O)O)C=CC1 | C15H12ClNO4
reactant | 3-amino-3-methyl-piperidine-2,6-dione hydrochloride | 4 mmol, 0.71 g | Cl.NC1(C(NC(CC1)=O)=O)C
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 4-(3-Chloro-benzylamino)-2-(3-methyl-2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione | 0.67 g, 41% | ClC=1C=C(CNC2=C3C(N(C(C3=CC=C2)=O)C2(C(NC(CC2)=O)=O)C)=O)C=CC1 | C21H18ClN3O4
